### PR TITLE
feat: Toronto problem

### LINKED ISSUE #1776: Toronto problem
### What is the conjecture
A Toronto space is a topological space homeomorphic to all of its subspaces of same cardinality.

It is conjectured that every T2, Toronto space is discrete. It is known this result holds under GCH, see Proposition 2.6 in the second reference.

- [Wikipedia](https://en.wikipedia.org/wiki/Toronto_space)
- [The Toronto problem](https://wrbrian.wordpress.com/wp-content/uploads/2012/01/thetorontoproblem.pdf)

### Prerequisites needed
Toronto spaces are not in mathlib but easy to define.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-54

### Choose either option
- [x] I plan on adding this conjecture to the repository
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by felixpernegger**
Closes #1776.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Toronto.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+
+open Cardinal
+
+variable (X : Type*) [TopologicalSpace X]
+
+/-- A *Toronto space* is a topological space
+which is homeomorphic to all of its subspaces of same cardinality.
+-/
+class TorontoSpace where
+  toronto : ∀ Y : Set X, #Y = #X → Y ≃ₜ X
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Toronto.lean]:
```suggestion
  toronto : ∀ ⦃Y : Set X⦄, #Y = #X → Y ≃ₜ X
```

File: FormalConjectures/Wikipedia/Toronto.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
...
+      exact rfl
+    rw [eq]
+    exact Homeomorph.Set.univ X
+
+/-- Any T2, Toronto space is discrete. -/
+@[category research open, AMS 54]
+instance DiscreteTopology.of_t2_of_torontoSpace [T2Space X] [TorontoSpace X] :
+    DiscreteTopology X := by
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Toronto.lean:66]:
```suggestion

-- TODO: Add implication that this holds under the GCH

```

File: FormalConjectures/Wikipedia/Toronto.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+      rw [this, hY]
+      exact rfl
+    rw [eq]
+    exact Homeomorph.Set.univ X
+
+/-- Any T2, Toronto space is discrete. -/
+@[category research open, AMS 54]
+instance DiscreteTopology.of_t2_of_torontoSpace [T2Space X] [TorontoSpace X] :
+    DiscreteTopology X := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Toronto.lean:65]: Actually I think this isn't quite right: what you want here is a theorem saying that the topology on `X` is the discrete one

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Toronto.lean:65]: So the theorem should say `IsDiscrete (Set.univ : Set X)`

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/Toronto.lean:65]: Are you sure? I copied this format from ```Finite.instDiscreteTopology``` from mathlib

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/Toronto.lean:65]: (```DiscreteTopology``` is actually a proposition confusingly enough)

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Toronto.lean:65]: Ah actually you're right my bad - I misread the docs!

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/Toronto.lean:65]: Thanks for the review :)

File: FormalConjectures/Wikipedia/Toronto.lean [hunk 4]
```diff
@@ -0,0 +1,69 @@
...
+      have : Y.ncard = (#↑Y).toNat := by
+        exact rfl
+      rw [this, hY]
+      exact rfl
+    rw [eq]
+    exact Homeomorph.Set.univ X
+
+/-- Any T2, Toronto space is discrete. -/
+@[category research open, AMS 54]
+instance DiscreteTopology.of_t2_of_torontoSpace [T2Space X] [TorontoSpace X] :
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Toronto.lean]: Final small nitpick: our convention is to avoid stating open problems as instances (even though this would be sensible here!)
```suggestion
theorem DiscreteTopology.of_t2_of_torontoSpace [T2Space X] [TorontoSpace X] :
```
